US08466155B2
b) N-[(1R,2R)-2-(tert-butyl-dimethyl-silanyloxy)-indan-1-yl]-methanesulphonamide
(1R,2R)-2-(tert-butyl-dimethyl-silanyloxy)-indan-1-ylamine (1.60 g) is dissolved in 16 mL DCM and combined with triethylamine (2.54 mL). Then methanesulphonyl chloride (0.61 mL in 5 mL DCM) is added dropwise. The reaction mixture is stirred for 2 h and after elimination of the solvent it is purified by normal phase chromatography (cHex/EA). The product-containing fractions are combined and freed from the solvent using the rotary evaporator.

reactant | (1R,2R)-2-(tert-butyl-dimethyl-silanyloxy)-indan-1-ylamine | 1.60 g | C(C)(C)(C)[Si](O[C@H]1[C@@H](C2=CC=CC=C2C1)N)(C)C | C15H25NOSi
reactant | triethylamine | 2.54 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.61 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 16 mL | C(Cl)Cl | CH2Cl2
product | N-[(1R,2R)-2-(tert-butyl-dimethyl-silanyloxy)-indan-1-yl]-methanesulphonamide | C(C)(C)(C)[Si](O[C@H]1[C@@H](C2=CC=CC=C2C1)NS(=O)(=O)C)(C)C | C16H27NO3SSi
